US08865713B2
Step D: 1-[5-Chloro-6-(propane-2-sulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
To a solution of 1-[5-chloro-1-(2-methoxy-ethoxymethyl)-6-(propane-2-sulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.243 g, 0.501 mmol) in ethanol (1.8 mL) was added 4M HCl in dioxane (1.8 mL). The reaction mixture was stirred at 23° C. for 1.5 h. Diethyl ether was added and the precipitate collected to yield the titled compound (0.183 g, 92% yield). MS (ESI/CI): mass calcd. for C16H17ClN4O4S, 369.1; m/z found, 397.1 [M+H]+. 1H NMR (400 MHz, DMSO): 9.03 (d, J=0.6 Hz, 1H), 8.42 (d, J=0.6 Hz, 1H), 8.16 (s, 1H), 7.90 (s, 1H), 4.31 (q, J=7.1 Hz, 2H), 3.89-3.76 (m, 1H), 1.33 (t, J=7.1 Hz, 3H), 1.21 (d, J=6.8 Hz, 6H).

reactant | 1-[5-chloro-1-(2-methoxy-ethoxymethyl)-6-(propane-2-sulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.501 mmol, 0.243 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)Cl)S(=O)(=O)C(C)C | C20H25ClN4O6S
reactant | HCl | 4M | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 1.8 mL | C(C)O | C2H6O
solvent | dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
product | 1-[5-Chloro-6-(propane-2-sulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.183 g, 92% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)Cl)S(=O)(=O)C(C)C | C16H17ClN4O4S
